US04129561
dl-3-Benzylamino-1-indanol
Stir indan-1,3-dione (7.31 g.), benzene (200 ml.) and benzylamine (5.90 g.) and reflux into a water separator for 6 hours. Cool, filter, and wash the dark solid with ether. Boil the solid with methylene chloride, filter and remove the solvent by boiling and replace with ether. Filter to get 4.51 g. of dark solid. Stir 4.30 g. of this solid with methanol (150 ml.) and add sodium borohydride (12.0 g.) portionwise with stirring over 4 hours. Let the reaction stand at room temperature then evaporate the solvent in vacuo and digest the residue with water and ether. Extract the mixture with ether and wash, dry and evaporate the solvent in vacuo. Recrystallize the residue from cyclohexane-ether to obtain 1.996 g. of the pure free base of the title compound, m.p. 121°-125°.

reactant | indan-1,3-dione | 7.31 g | C1(CC(C2=CC=CC=C12)=O)=O | C9H6O2
reactant | benzene | 200 ml | C1=CC=CC=C1 | C6H6
reactant | benzylamine | 5.90 g | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium borohydride | 12.0 g | [BH4-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
solvent | water | O | H2O
product | 3-Benzylamino-1-indanol | C(C1=CC=CC=C1)NC1CC(C2=CC=CC=C12)O | C16H17NO
